US07030128B2
To 2,6-dibromopyridine (5.9 g, 25 mmol) and tetrakis(triphenylphosphine)palladium(0) (1.4 g, 1.2 mmol) was added cyclopentylzinc bromide (50 ml, 0.5 M solution in tetrahydrofuran) and the mixture heated at reflux for 18 h. The reaction was diluted with ethyl acetate and washed with water. The organic phase was separated, dried over magnesium sulfate, filtered and evaporated in vacuo to give an oil. The crude product was chromatographed on silica, eluting on a gradient from 1 to 5% methanol in dichloromethane, to give 2-bromo-6-cyclopentylpyridine (3.25 g) as a white solid: δH (400 MHz, CDCl3) 1.60-1.90 (6H, m), 2.09 (2H, m), 3.17 (1H, m), 7.12 (1H, d, J 7.4), 7.28 (1H, d, J 7.4), 7.44 (1H, t, J 7.2); m/z (ES+) 226:228 (1:1) (M++H).

reactant | 2,6-dibromopyridine | 25 mmol, 5.9 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | cyclopentylzinc bromide | 0.5 M, 50 ml | [Br-].C1(CCCC1)[Zn+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.2 mmol, 1.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-bromo-6-cyclopentylpyridine | 3.25 g | BrC1=NC(=CC=C1)C1CCCC1 | C10H12BrN
